US07244843B2
Step C. Preparation of (R)-1-benzyl-3-(4-trifluoromethyl-benzyl)-piperazine
To a stirred solution of 1-benzyl-3-(4-trifluoromethyl-benzyl)-piperazine-2,5-dione (0.53 g, 1.46 mmol) in dry THF (15 mL), 1M LAH in THF (6.14 mL, Aldrich) was slowly added at 0° C. and then heated to reflux for 18 h under argon. The reaction was cooled to room temperature and carefully quenched with H2O (1 mL), 1N NaOH (1 mL) and H2O (1 mL). The reaction mixture was filtered through bed of celite and rinsed with THF (100 mL). The filtrate was conc in vacuo and then dissolved in EtOAc (100 mL), washed with brine (2×10 mL), dried over MgSO4, and conc in vacuo to yield 0.45 g (92%) of the product as a colorless oil. MS (ESI) 335 (M+H).

reactant | 1-benzyl-3-(4-trifluoromethyl-benzyl)-piperazine-2,5-dione | 1.46 mmol, 0.53 g | C(C1=CC=CC=C1)N1C(C(NC(C1)=O)CC1=CC=C(C=C1)C(F)(F)F)=O | C19H17F3N2O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | LAH | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 6.14 mL | C1CCOC1 | C4H8O
product | (R)-1-benzyl-3-(4-trifluoromethyl-benzyl)-piperazine | 0.45 g, 92% | C(C1=CC=CC=C1)N1C[C@H](NCC1)CC1=CC=C(C=C1)C(F)(F)F | C19H21F3N2
